US04132798
4-(N-Acetyl-N-methylamino)-2-phenylthiazole
A mixture of 4-acetamido-2-phenylthiazole, prepared according to Example 1, and methyl tosylate in acetonitrile may be treated with sodium hydride to give the title compound.

reactant | 4-acetamido-2-phenylthiazole | C(C)(=O)NC=1N=C(SC1)C1=CC=CC=C1 | C11H10N2OS
reactant | methyl tosylate | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | sodium hydride | [H-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(N-Acetyl-N-methylamino)-2-phenylthiazole | C(C)(=O)N(C)C=1N=C(SC1)C1=CC=CC=C1 | C12H12N2OS
